### PR TITLE
[Merged by Bors] - feat: `IsHomeomorph` predicate

### PR DESCRIPTION
**Pull request by peabrainiac**
Define an `IsHomeomorph` predicate for maps between topological spaces to complement the existing bundled `Homeomorph` API.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Thanks for your contribution! Is this ready for review? If so, please label it `awaiting-review`. (See [here](https://leanprover-community.github.io/contribute/index.html#lifecycle-of-a-pr) for a more detailed explanation of this and related labels.)

**Comment by peabrainiac** [comment]
For context, there was already a little bit of discussion over this [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Why.20no.20.60IsHomeomorph.60.20property.3F/near/435012711) on Zulip. One concern voiced there was that having an unbundled predicate in addition to the bundled `Homeomorph` structure would encourage a lot of API duplication. The way I've tried to avoid that is by only implementing API relating this to other unbundled properties of maps, such as with `IsHomeomorph.isClosedMap` - theorems involving properties of sets and spaces, like [Homeomorph.compactSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Homeomorph.html#Homeomorph.compactSpace), are still available only for bundled homeomorphisms. My hope is that this provides enough API for most situations in which the `IsHomeomorph` predicate might be used, while also making it easy enough to convert between the `IsHomeomorph` and `Homeomorph` types when the additional API of `Homeomorph` is needed.

File: Mathlib/Topology/Constructions.lean [hunk 1]
```diff
@@ -1550,10 +1554,9 @@ theorem inducing_iInf_to_pi {X : Type*} (f : ∀ i, X → π i) :
   letI := ⨅ i, induced (f i) inferInstance; ⟨(induced_to_pi _).symm⟩
 #align inducing_infi_to_pi inducing_iInf_to_pi
 
-variable [Finite ι] [∀ i, DiscreteTopology (π i)]
-
 /-- A finite product of discrete spaces is discrete. -/
-instance Pi.discreteTopology : DiscreteTopology (∀ i, π i) :=
+instance Pi.discreteTopology [Finite ι] [∀ i, DiscreteTopology (π i)] :
+    DiscreteTopology (∀ i, π i) :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Constructions.lean:1559]: Please avoid adding unnecessary lines of diff to your PRs

File: Mathlib/Topology/Constructions.lean [hunk 2]
```diff
@@ -1038,6 +1038,10 @@ theorem isOpenMap_sum {f : X ⊕ Y → Z} :
   simp only [isOpenMap_iff_nhds_le, Sum.forall, nhds_inl, nhds_inr, Filter.map_map, comp]
 #align is_open_map_sum isOpenMap_sum
 
+theorem IsOpenMap.sum_map {f : X → Y} {g : Z → W} (hf : IsOpenMap f) (hg : IsOpenMap g) :
```
Comment (YaelDillies) [inline Mathlib/Topology/Constructions.lean:1041]: Following the [naming convention](https://leanprover-community.github.io/contribute/naming.html), the foreign namespaces should be appended back in camel-case unless the unnamespaced name is unambiguous.
```suggestion
theorem IsOpenMap.sumMap {f : X → Y} {g : Z → W} (hf : IsOpenMap f) (hg : IsOpenMap g) :
```

File: Mathlib/Topology/Homeomorph.lean [hunk 3]
```diff
@@ -867,3 +867,109 @@ def homeoOfEquivCompactToT2 [CompactSpace X] [T2Space Y] {f : X ≃ Y} (hf : Con
 #align continuous.homeo_of_equiv_compact_to_t2 Continuous.homeoOfEquivCompactToT2
 
 end Continuous
+
+variable [TopologicalSpace X] [TopologicalSpace Y] [TopologicalSpace Z]
+  {W : Type*} [TopologicalSpace W]
+
+/-- Predicate saying that `f` is a homeomorphism. -/
+def IsHomeomorph (f : X → Y) := Continuous f ∧ IsOpenMap f ∧ Function.Bijective f
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:875]: It's usually nicer to create a custom structure when combining > 2 predicates
```suggestion
structure IsHomeomorph (f : X → Y) : Prop where
  continuous : Continuous f
  isOpenMap : IsOpenMap f
  bijective : Bijective f
```
(also please `open Function`)

File: Mathlib/Topology/Homeomorph.lean [hunk 4]
```diff
@@ -867,3 +867,109 @@ def homeoOfEquivCompactToT2 [CompactSpace X] [T2Space Y] {f : X ≃ Y} (hf : Con
...
+protected theorem bijective : Function.Bijective f := hf.2.2
+
+protected theorem injective : Function.Injective f := hf.2.2.1
+
+protected theorem surjective : Function.Surjective f := hf.2.2.2
+
+end IsHomeomorph
+
+/-- A map is a homeomorphism iff it is the map underlying a bundled homeomorphism `h : X ≃ₜ Y`. -/
+theorem isHomeomorph_iff_is_homeomorph {f : X → Y} : IsHomeomorph f ↔ ∃ h : X ≃ₜ Y, h = f :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:921]:
```suggestion
theorem isHomeomorph_iff_exists_homeomorph {f : X → Y} : IsHomeomorph f ↔ ∃ h : X ≃ₜ Y, h = f :=
```

File: Mathlib/Topology/Homeomorph.lean [hunk 5]
```diff
@@ -867,3 +867,109 @@ def homeoOfEquivCompactToT2 [CompactSpace X] [T2Space Y] {f : X ≃ Y} (hf : Con
...
+
+theorem IsHomeomorph.sum_map {f : X → Y} {g : Z → W} (hf : IsHomeomorph f) (hg : IsHomeomorph g) :
+    IsHomeomorph (Sum.map f g) := by
+  refine' ⟨hf.1.sum_map hg.1,hf.2.1.sum_map hg.2.1,hf.2.2.sum_map hg.2.2⟩
+
+theorem IsHomeomorph.prod_map {f : X → Y} {g : Z → W} (hf : IsHomeomorph f) (hg : IsHomeomorph g) :
+    IsHomeomorph (Prod.map f g) :=
+  ⟨hf.1.prod_map hg.1,hf.2.1.prod hg.2.1,hf.2.2.Prod_map hg.2.2⟩
+
+lemma IsHomeomorph.sigma_map {ι κ : Type*} {X : ι → Type*} {Y : κ → Type*}
```
Comment (YaelDillies) [inline Mathlib/Topology/Homeomorph.lean:965]:
```suggestion
lemma IsHomeomorph.sigmaMap {ι κ : Type*} {X : ι → Type*} {Y : κ → Type*}
```
and above

**Comment by jcommelin** [comment]
Hi @peabrainiac, this PR looks mostly fine, but there are still some places where it needs some work. Are you planning to continue working on this PR? Would you like some help from others, or do you want to hand over completely? (In the latter case, please label it with `please-adopt`.)

**Comment by semorrison** [comment]
@peabrainiac, it looks like the PR hasn't moved since we last pinged you. We're going to close this for now, just for the sake of cleaning up our [PR queue](https://bit.ly/3Ymuh0U). But please do feel free to either re-open the PR if you'd like to continue working on it, or come across to the [PR reviews](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/) zulip stream to ask for advice or request that we look at this again.

**Comment by semorrison** [comment]
@j-loreaux asked that we reopen this.

File: Mathlib/Topology/Homeomorph.lean [hunk 6]
```diff
@@ -766,3 +766,96 @@ def homeoOfEquivCompactToT2 [CompactSpace X] [T2Space Y] {f : X ≃ Y} (hf : Con
     continuous_invFun := hf.continuous_symm_of_equiv_compact_to_t2 }
 
 end Continuous
+
+variable [TopologicalSpace X] [TopologicalSpace Y] [TopologicalSpace Z]
+  {W : Type*} [TopologicalSpace W] {f : X → Y}
+
+/-- Predicate saying that `f` is a homeomorphism. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Homeomorph.lean:773]: This docstring should be greatly expanded with information about why we have this, and when to use it, especially since we frequently should prefer `Homeomorph` directly.

For example, this should mention at least:

1. That `Homeomorph` exists and that it should get preferred whenever the inverse is easy to write down.
2. That we have this in part because we have much of the topological end of the library unbundled.
3. Unlike many other `EquivLike` morphisms, `IsHomeomorph` is not just a `FunLike` version of the morphism + `Function.Bijective`, so something is actually gained by having this as a separate predicate.
4. This predicate is useful when you *don't* have an easily written inverse, but you still want to access properties of homeomorphosms or potentially build one.

Points 2 and 3 also explain why we don't have this pattern for various equivs across the library.

**Review by j-loreaux — COMMENTED** [review]
Thanks for adopting this Yaël!

File: Mathlib/Topology/Homeomorph.lean [hunk 7]
```diff
@@ -766,3 +766,96 @@ def homeoOfEquivCompactToT2 [CompactSpace X] [T2Space Y] {f : X ≃ Y} (hf : Con
...
+
+/-- A map is a homeomorphism iff it is a surjective embedding. -/
+lemma isHomeomorph_iff_embedding_surjective : IsHomeomorph f ↔ Embedding f ∧ Surjective f where
+  mp hf := ⟨hf.embedding, hf.surjective⟩
+  mpr h := ⟨h.1.continuous, ((openEmbedding_iff f).2 ⟨h.1, h.2.range_eq ▸ isOpen_univ⟩).isOpenMap,
+    h.1.inj, h.2⟩
+
+/-- A map is a homeomorphism iff it is continuous, closed and bijective. -/
+lemma isHomeomorph_iff_closed_bijective : IsHomeomorph f ↔
+    Continuous f ∧ IsClosedMap f ∧ Function.Bijective f :=
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Homeomorph.lean:828]: Actually, I agree about `isClosedMap` too

File: Mathlib/Topology/Homeomorph.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Topology/Homeomorph.lean]: What about now? I'm not super happy with it, so feel free to request more changes

Comment (j-loreaux) [reply Mathlib/Topology/Homeomorph.lean]: I think it's okay. It may not be perfect, but I don't see obvious bits to change, and it's good enough.

**Comment by j-loreaux** [comment]
build failing @YaelDillies 

bors d+

**Comment by j-loreaux** [comment]
oops

bors d=yaeldillies

**Comment by j-loreaux** [comment]
bors d-

**Comment by YaelDillies** [comment]
bors merge
